US07737145B2
A solution of 1,1-dimethylethyl 2-[[[[4-(methoxycarbonyl)phenyl]methyl]methylamino]methyl]-1-pyrrolidinecarboxylate in dichloromethane was treated with 4 N HCl (2 mL) and stirred at ambient temperature for 4 hours. The reaction was concentrated to give methyl 4-[[methyl(2-pyrrolidinylmethyl)amino]methyl]benzoate as a hydrochloride salt.

reactant | 1,1-dimethylethyl 2-[[[[4-(methoxycarbonyl)phenyl]methyl]methylamino]methyl]-1-pyrrolidinecarboxylate | COC(=O)C1=CC=C(C=C1)CN(C)CC1N(CCC1)C(=O)OC(C)(C)C | C20H30N2O4
reactant | HCl | 4 N, 2 mL | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
product | methyl 4-[[methyl(2-pyrrolidinylmethyl)amino]methyl]benzoate | CN(CC1NCCC1)CC1=CC=C(C(=O)OC)C=C1 | C15H22N2O2
